US05049669
A solution of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (0.9 g) and propylamine (3 cc) in absolute ethanol (18 cc) is saturated with hydrogen sulphide and the mixture is brought to a temperature in the region of 100° C. for 16 hours. After being cooled, it is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to obtain a yellow oil. This oil is purified by chromatography on a column (height: 25 cm; diameter: 2.5 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting successively with methylene chloride (100 cc) and then mixture (95:5 by volume) (300 cc) of methylene chloride and methanol and collecting 50-cc fractions. Fractions 3 to 5 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (1 g) is dissolved in ethanol (9 cc) under reflux and treated with a.boiling solution of fumaric acid (0.29 g) in ethanol (5 cc). The mixture is allowed to cool and is maintained for 4 hours at a temperature in the region of 5° C. The crystals formed are drained, washed with ice-cold ethanol (2 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 35° C. N-Propyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide neutral fumarate (1.12 g) is thereby obtained in the form of yellow crystals, m.p. 150-152° C.

reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 0.9 g | N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C20H23N3S2
reactant | propylamine | 3 cc | C(CC)N | C3H9N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 18 cc | C(C)O | C2H6O
product | N-Propyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 1.12 g | C(CC)NC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H29N3S2
